US07638515B2
4-(2,5-Difluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal
800 mg (2.8 mmol) of 4-(2,5-difluorophenyl)-4-methyl-2-trifluoromethyl-pentane-1,2-diol is introduced into 20 ml of dichloromethane, and at 0° C., 9.5 ml of DMSO and 1.95 ml of triethylamine are added. The solution is slowly mixed with 1.34 g (8.4 mmol) of SO3-pyridine complex, and it is stirred for 2 hours at 0° C. The mixture is dispersed between saturated ammonium chloride solution and MTBE, the phases are separated, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with water and saturated NaCl solution and dried with NaSO4. It is concentrated by evaporation and chromatographed on silica gel with hexane/ethyl acetate (30%). 710 mg of the desired product is obtained.

reactant | 4-(2,5-difluorophenyl)-4-methyl-2-trifluoromethyl-pentane-1,2-diol | 2.8 mmol, 800 mg | FC1=C(C=C(C=C1)F)C(CC(CO)(O)C(F)(F)F)(C)C | C13H15F5O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | DMSO | 9.5 ml | CS(=O)C | C2H6OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | triethylamine | 1.95 ml | C(C)N(CC)CC | C6H15N
product | 4-(2,5-Difluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal | 710 mg | FC1=C(C=C(C=C1)F)C(CC(C=O)(C(F)(F)F)O)(C)C | C13H13F5O2
